* D:\DocumentosD\UTN\4_Cuarto Año\Teoria de los Circuitos II\TS1\PasaTodo.asc
V1 Vi 0 AC 1
R1 N001 Vi 1k
C1 vx Vi 1
R2 vo N001 1k
R3 0 vx 1
XU1 N001 vx vo opamp Aol=100K GBW=10Meg
.ac dec 10 0.1 1000k
.inc opamp.sub
.backanno
.end
